US03975537
3-(4'-Hydroxybenzoyl)-2-(4'-nitrobenzyl)benzofuran (37.3 g., 0.1 mol.) is added in small portions to 56.4 g. (0.25 mol.) of stannous chloride dihydrate in 70 ml. of concentrated hydrochloric acid. The reaction mixture is heated at 50° for 3 hours, then stirred at 25° for 12 hours. Cooling (ice bath) enhances precipitation of the product salt which is collected by filtration and dissolved in water. The aqueous solution is made basic by addition of 10% aqueous sodium hydroxide and extracted with chloroform. The extracts are dried (MgSO4) and concentrated to give 2-(4'-aminobenzyl)-3-(4'-hydroxybenzoyl)benzofuran.

reactant | 3-(4'-Hydroxybenzoyl)-2-(4'-nitrobenzyl)benzofuran | 0.1 mol, 37.3 g | OC1=CC=C(C(=O)C2=C(OC3=C2C=CC=C3)CC3=CC=C(C=C3)[N+](=O)[O-])C=C1 | C22H15NO5
reactant | hydrochloric acid | Cl | ClH
product | 2-(4'-aminobenzyl)-3-(4'-hydroxybenzoyl)benzofuran | NC1=CC=C(CC=2OC3=C(C2C(C2=CC=C(C=C2)O)=O)C=CC=C3)C=C1 | C22H17NO3
